2176-02-29 10:38:00 Physician Attending Progress Note
Chief Complaint: SOB, pleural effusion
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Thoracics decided against furhter drainage of the hemothorax with chest
   tube. Hct slowly trending down over the course of the night from 28 to
   26. Respiratory status stable. Brief SVT overnight to 150 Bp stable and
   rapidly reverted back.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   no meds.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-2-29**] 10:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**78**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.4
C (97.6
   HR: 99 (92 - 110) bpm
   BP: 117/49(65) {105/45(60) - 149/53(76)} mmHg
   RR: 25 (17 - 29) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
             250 mL
   PO:
             TF:
   IVF:
   250 mL
   Blood products:
   Total out:
                                                                    100 mL
                                                                    130 mL
   Urine:
                                                                    100 mL
                                                                    130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -100 mL
                                                                    120 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: jaundice
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL, axillary wnl
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Diminished: L>R)
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   9.2 g/dL
   59 K/uL
   95 mg/dL
   0.4 mg/dL
   27 mEq/L
   3.9 mEq/L
   19 mg/dL
   105 mEq/L
   137 mEq/L
   26.5 %
   8.8 K/uL
        [image002.jpg]
                             [**2176-2-29**]  01:43 AM
                             [**2176-2-29**]  04:06 AM
   WBC
   9.8
   8.8
   Hct
   27.1
   26.5
   Plt
   53
   59
   Cr
   0.4
   Glucose
   95
   Other labs: PT / PTT / INR:23.0/38.4/2.2, ALT / AST:33/52, Alk Phos / T
   Bili:85/11.8, Albumin:2.6 g/dL, LDH:194 IU/L, Ca++:8.0 mg/dL, Mg++:2.0
   mg/dL, PO4:3.4 mg/dL
   Fluid analysis / Other labs: alb 2.6
   fibrinogen 55
   Imaging: CXR left sided effusion. re-expansion pulmonary edema on the
   left.
   Assessment and Plan
   Bloody effusion: unclear if true hemothorax, or bloody tap, or bloody
   effusion. Will obtain OSH imagian, records re cirrhoisis, and
   chemistries/cytology/microbiology off pleural fluid. ddx broad includes
   traumatic tap in setting of thrombocytopenia and coagulopathy,
   malignant pleural effusion, hydrothorax, PE related effusion probably
   less likely given coagulopathy. Wil obtain OSH records, serial imaging.
   Has evidence for rexpansion pulmonary edema on CXR, doubt pneumonia or
   other process, will follow up with serial imaging expect that will
   rapidly resolve.
   Indirect hyperbilirubinemia: ? transfusion reaction, will follow up
   blood smear, will initiate transfusion reaction work up.
   Cirrhosis: obtain NWH records. will also been seen by the liver
   service.
   ICU Care
   Nutrition:
   Comments: regular diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2176-2-29**] 12:05 AM
   20 Gauge - [**2176-2-29**] 12:07 AM
   22 Gauge - [**2176-2-29**] 12:08 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill
   ------ Protected Section ------
   I saw and examined the pt, and was physically present with the ICU team
   for the key portions of services provided. I agree with Dr.[**Name (NI) 13441**]
   note above, including assessment and plan. I would add:
   69 yo female, recent dx of cirrhosis- etiology still being investigated
   To OSH with dyspnea
   Large pleural effusion: 2.8 liters of bloody fluid removed with
   improvement (128K RBC's). Hct 23 at unclear point- transfused between
   2-4 units blood
   Here: Seen by thoracics with no immediate plans for CT
   94% 3l
   Decreased BS at left base
   INR 1.9-2.2
   TB 11; Ind bili 8
   pleural protein 3; LD 113; pleural hct not checked
   Hct 28-->27-->26.5
   Imp: 69 yo female with cirrhosis admitted with unilateral massive
   bloody effusion s/p thoracenesis- may represent a traumatic tap, vs
   bloody effusion from other etiology such as malignancy. Last CXR with
   relatively small effusion, re-expansion pulmonary edema.
   Will repeat films to see if effusion has re-accumulated- if remains
   small, needs chest CT to further image lung parenchyma. No immediate
   plans for CT per thoracics, but will continue to check hct given
   concerns for possible hemothorax. F/u pleural fluid studies from OSH.
   Pt is critically ill. Total time spent: 33 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 618**] [**Last Name (NamePattern1) **], MD
   on:[**2176-2-29**] 13:10 ------

2176-03-01 06:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2176-2-29**] 08:00 PM
   abdominal
   [**2-29**]:
   - RUQ US large ascites, patent vasculature, ascites
   - awaiting RUQ u/s with Dopplers as recommended by liver
   - pm CXR showed worsening pleural effusion; respiratory status stable
   - am CXR ordered
   - O2 requirement stable
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-3-1**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**78**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.7
C (98.1
   HR: 91 (88 - 103) bpm
   BP: 115/50(65) {102/38(57) - 124/63(71)} mmHg
   RR: 20 (18 - 29) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                    930 mL
                  PO:
                                                                    600 mL
                  TF:
   IVF:
                                                                    330 mL
   Blood products:
   Total out:
                                                                    539 mL
                                                                    225 mL
   Urine:
                                                                    539 mL
                                                                    225 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    391 mL
                                                                   -225 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 93%
   ABG: ///29/
   Physical Examination
   GEN:The patient is in no distress and appears comfortable.  Friendly.
   SKIN: No rashes or skin changes noted
   HEENT: No JVD, neck supple, No lymphadenopathy in cervical, posterior,
   or supraclavicular chains noted.
   CHEST: Decreased breath sounds at bases bilaterally, L>R.
   CARDIAC: Regular rhythm; no murmurs, rubs, or gallops.
   ABDOMEN: No apparent scars. Non-distended, and soft without tenderness
   EXTREMITIES:no peripheral edema, warm without cyanosis
   NEUROLOGIC: Alert and appropriate. CN II-XII grossly intact. BUE [**5-15**],
   and BLE [**5-15**] both proximally and distally. No pronator drift. Reflexes
   were symmetric. Downward going toes.
   Labs / Radiology
   49 K/uL
   8.9 g/dL
   93 mg/dL
   0.4 mg/dL
   29 mEq/L
   3.8 mEq/L
   17 mg/dL
   105 mEq/L
   137 mEq/L
   26.5 %
   6.6 K/uL
        [image002.jpg]
                             [**2176-2-29**]  01:43 AM
                             [**2176-2-29**]  04:06 AM
                             [**2176-2-29**]  11:58 AM
                             [**2176-2-29**]  05:48 PM
                             [**2176-3-1**]  03:53 AM
   WBC
   9.8
   8.8
   8.1
   6.6
   Hct
   27.1
   26.5
   27.3
   25.8
   26.5
   Plt
   53
   59
   56
   49
   Cr
   0.4
   0.4
   0.4
   Glucose
   95
   105
   93
   Other labs: PT / PTT / INR:26.9/39.3/2.6, ALT / AST:36/67, Alk Phos / T
   Bili:83/12.5, Fibrinogen:76 mg/dL, Albumin:2.6 g/dL, LDH:194 IU/L,
   Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 LIVER FUNCTION ABNORMALITIES
 CIRRHOSIS OF LIVER, OTHER
 .H/O CIRRHOSIS OF LIVER, ALCOHOLIC
 HEMOTHORAX
   A 69 year-old woman with a recent diagnosis of cirrhosis of unclear
   etiology presents with hemothorax
   .
   #  hemothorax and hypoxia:  Differential includes trauma (although
   history of such), dirty tap, malignant pleural effusion, or simply
   spontaneous secondary to coagulopathy. It's unclear exactly when her
   OSH Hct of 23 was obtained in the course of transfusions.  Thoracics
   following.  Hypoxia currently is likely secondary to re-expansion
   pulmonary edema after removal of such a large volume of fluid s well as
   small residual PTX.
   - obtain pleural fluid cell count from [**Hospital1 1294**]
   - q12h Hct
   - active T&C four units
   - 2 X PIV
   - f/u thoracics and IP recs
   - will discuss regarding thoracentesis, will need FFP and plts
   - supportive care of re-expansion pulmonary edema including
   supplemental O2 as needed
   - repeat CXR in AM
   - will eventually need repeat chest CT once lung re-expanded to rule
   out underlying mass
   .
   #  cirrhosis:  unclear etiology, appears to be primarily a biliary
   picture based on LFTs. However, fractionated bili shows predominately
   unconjugated bilirubin, raising concern for co-existing hemolysis. INR
   elevation indicative of synthetic dysfunction.
   - f/u liver recs
   - possible paracentesis, will need FFP/plts. Will coordinate with
   possible [**Female First Name (un) 217**] as well
   - contact her hepatologist regarding to clarify her history and
   determine what work-up has been done  - Dr. [**Last Name (STitle) 13436**]
   [**Telephone/Fax (1) 13437**], Dr. [**First Name (STitle) **] (ERCP) [**Telephone/Fax (1) 13438**]
   .
   #  elevated indirect bilirubinemia:  concerning for hemolysis.  Likely
   secondary to recent transfusions, but the degree of elevation is
   unusual.  Unable to evaluate for intrinsic hemolysis given recent FFP
   and blood transfusions.
   - trend bilirubin
   - consider transfusion reaction workup
   .
   # hypertension:  currently normotensive
   - restart home lisinopril
   .
   # FEN: IVFs / replete lytes prn / regular diet
   # PPX: pneumoboots
   # ACCESS: PIV x 3
   # CODE:  Full, discussed
   # CONTACT:  [**Name (NI) 186**] [**Name (NI) 1948**] [**Telephone/Fax (1) 13439**]
   ICU Care
   Nutrition:  advance  to cardiac diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2176-2-29**] 12:05 AM
   20 Gauge - [**2176-2-29**] 12:07 AM
   22 Gauge - [**2176-2-29**] 12:08 AM
   Prophylaxis:
   DVT: pneumonboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Husband [**Name (NI) 1948**] [**Telephone/Fax (1) 13439**]
   [**Name2 (NI) 36**] status: full, discused with patient
   Disposition:  call out
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2176-2-29**] 12:05 AM
   20 Gauge - [**2176-2-29**] 12:07 AM
   22 Gauge - [**2176-2-29**] 12:08 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2176-03-01 10:14:00 Physician Attending Progress Note
Chief Complaint: Hemothorax
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 ULTRASOUND - At [**2176-2-29**] 08:00 PM large ascites, cirrhotic liver,
   patent vessels.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   prednisolone, acular
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-3-1**] 10:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**78**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.9
C (98.5
   HR: 100 (88 - 107) bpm
   BP: 118/49(67) {102/38(57) - 127/63(75)} mmHg
   RR: 19 (18 - 29) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
                  Total In:
                                                                    930 mL
                                                                    100 mL
   PO:
                                                                    600 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    330 mL
   Blood products:
   Total out:
                                                                    539 mL
                                                                    275 mL
   Urine:
                                                                    539 mL
                                                                    275 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    391 mL
                                                                   -175 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 95%
   ABG: ///29/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.9 g/dL
   49 K/uL
   93 mg/dL
   0.4 mg/dL
   29 mEq/L
   3.8 mEq/L
   17 mg/dL
   105 mEq/L
   137 mEq/L
   26.5 %
   6.6 K/uL
        [image002.jpg]
                             [**2176-2-29**]  01:43 AM
                             [**2176-2-29**]  04:06 AM
                             [**2176-2-29**]  11:58 AM
                             [**2176-2-29**]  05:48 PM
                             [**2176-3-1**]  03:53 AM
   WBC
   9.8
   8.8
   8.1
   6.6
   Hct
   27.1
   26.5
   27.3
   25.8
   26.5
   Plt
   53
   59
   56
   49
   Cr
   0.4
   0.4
   0.4
   Glucose
   95
   105
   93
   Other labs: PT / PTT / INR:26.9/39.3/2.6, ALT / AST:36/67, Alk Phos / T
   Bili:83/12.5, Fibrinogen:76 mg/dL, Albumin:2.6 g/dL, LDH:194 IU/L,
   Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:2.6 mg/dL
   Imaging: CXR possible increased left sided effusion layering
   posteriorly
   Microbiology: none new
   Assessment and Plan
   Left sided effusion: appears to have increased, will be drained by IP
   this am, will need FFP, and platelet transfusion for goal INR<1.6 and
   plt >75. f/u OSH data. Will CT chest after drainage
   Cirrhosis: etiology unclear  serologies pending, will perform
   paracentesis sequentially with thoracentesis
   Hemothorax: unclear etiology, repeat [**Female First Name (un) 217**] today, concerning for prior
   traumatic tap, hct has been stable
   Low urine output: 250cc bolus. Will feed  her asap.
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:
   Lines:
   18 Gauge - [**2176-2-29**] 12:05 AM
   20 Gauge - [**2176-2-29**] 12:07 AM
   22 Gauge - [**2176-2-29**] 12:08 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 40 minutes
   ------ Protected Section ------
   I saw and examined the pt, and was physically present with the ICU team
   for the key portions of services provided. I agree with Dr.[**Name (NI) 13441**]
   note above, including assessment and plan. I would add:
   Over the past day, fluid re-accumulated- tapped this afternoon with 1
   liter bloody fluid obtained.
   Not a hemothorax (pleuro crit=7)
   Imp:
   69 yo female with recent dx of cirrhosis admitted with left bloody
   effusion.
   Effusion: etiology remains unclear, f/u studies at OSH. Plan CT to
   visualize left lung parenchyma which was obscured by enormous effusion
   on last image. Will re-check hct given bloody nature of effusion.
   Cirrhosis: appreciate hepatology recs. Dx paracentesis ultimately with
   coags reversed.
   Pt is critically ill. Total time spent: 33 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 618**] [**Last Name (NamePattern1) **], MD
   on:[**2176-3-1**] 18:04 ------

2176-03-02 07:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 THORACENTESIS - At [**2176-3-1**] 03:00 PM
   - [**Female First Name (un) **] bloody fluid (not hemothorax). Pt with SVT during procedure but
   settled out.  Continued subQ edema at [**Female First Name (un) 217**] site. Post Hct stable
   - Diagnostic Para deferred given bleeding risk from thoracentesis.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-3-2**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**78**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 35.9
C (96.7
   HR: 78 (78 - 108) bpm
   BP: 98/45(58) {98/40(53) - 128/55(75)} mmHg
   RR: 16 (16 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,870 mL
                                                                    100 mL
   PO:
                                                                    820 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    250 mL
   Blood products:
                                                                    800 mL
   Total out:
                                                                    600 mL
                                                                    265 mL
   Urine:
                                                                    600 mL
                                                                    265 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,270 mL
                                                                   -165 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 95%
   ABG: ///30/
   Physical Examination
   GEN:The patient is in no distress and appears comfortable.  Friendly.
   SKIN: No rashes or skin changes noted
   HEENT: No JVD, neck supple, No lymphadenopathy in cervical, posterior,
   or supraclavicular chains noted.
   CHEST: Decreased breath sounds at bases bilaterally, L>R.
   CARDIAC: Regular rhythm; no murmurs, rubs, or gallops.
   ABDOMEN: No apparent scars. Non-distended, and soft without tenderness
   EXTREMITIES:no peripheral edema, warm without cyanosis
   NEUROLOGIC: Alert and appropriate. CN II-XII grossly intact. BUE [**5-15**],
   and BLE [**5-15**] both proximally and distally. No pronator drift. Reflexes
   were symmetric. Downward going toes.
   Labs / Radiology
   41 K/uL
   8.2 g/dL
   88 mg/dL
   0.4 mg/dL
   30 mEq/L
   3.9 mEq/L
   16 mg/dL
   105 mEq/L
   139 mEq/L
   24.5 %
   6.7 K/uL
        [image002.jpg]
                             [**2176-2-29**]  01:43 AM
                             [**2176-2-29**]  04:06 AM
                             [**2176-2-29**]  11:58 AM
                             [**2176-2-29**]  05:48 PM
                             [**2176-3-1**]  03:53 AM
                             [**2176-3-1**]  02:48 PM
                             [**2176-3-2**]  04:22 AM
   WBC
   9.8
   8.8
   8.1
   6.6
   7.6
   6.7
   Hct
   27.1
   26.5
   27.3
   25.8
   26.5
   24.6
   24.5
   Plt
   53
   59
   56
   49
   41
   Cr
   0.4
   0.4
   0.4
   0.4
   Glucose
   95
   105
   93
   88
   Other labs: PT / PTT / INR:23.8/33.2/2.3, ALT / AST:30/46, Alk Phos / T
   Bili:82/8.8, Fibrinogen:76 mg/dL, Albumin:2.6 g/dL, LDH:168 IU/L,
   Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:3.1 mg/dL
   Microbiology: Pleural Cx:
   GRAM STAIN (Final [**2176-3-1**]):
         NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
         NO MICROORGANISMS SEEN.
   Urine Cx: (-)
   Blood Cx: Pendng
   Assessment and Plan
 LIVER FUNCTION ABNORMALITIES
 CIRRHOSIS OF LIVER, OTHER
 .H/O CIRRHOSIS OF LIVER, ALCOHOLIC
 HEMOTHORAX
   A 69 year-old woman with a recent diagnosis of cirrhosis of unclear
   etiology presents with hemothorax
   .
   #  hemothorax and hypoxia:  Differential includes trauma (although
   history of such), dirty tap, malignant pleural effusion, or simply
   spontaneous secondary to coagulopathy. It's unclear exactly when her
   OSH Hct of 23 was obtained in the course of transfusions.  Thoracics
   following.  Hypoxia currently is likely secondary to re-expansion
   pulmonary edema after removal of such a large volume of fluid s well as
   small residual PTX.
   - obtain pleural fluid cell count from [**Hospital1 1294**]
   - q12h Hct
   - active T&C four units
   - 2 X PIV
   - f/u thoracics and IP recs
   - will discuss regarding thoracentesis, will need FFP and plts
   - supportive care of re-expansion pulmonary edema including
   supplemental O2 as needed
   - repeat CXR in AM
   - will eventually need repeat chest CT once lung re-expanded to rule
   out underlying mass
   .
   #  cirrhosis:  unclear etiology, appears to be primarily a biliary
   picture based on LFTs. However, fractionated bili shows predominately
   unconjugated bilirubin, raising concern for co-existing hemolysis. INR
   elevation indicative of synthetic dysfunction.
   - f/u liver recs
   - possible paracentesis, will need FFP/plts. Will coordinate with
   possible [**Female First Name (un) 217**] as well
   - contact her hepatologist regarding to clarify her history and
   determine what work-up has been done  - Dr. [**Last Name (STitle) 13436**]
   [**Telephone/Fax (1) 13437**], Dr. [**First Name (STitle) **] (ERCP) [**Telephone/Fax (1) 13438**]
   .
   #  elevated indirect bilirubinemia:  concerning for hemolysis.  Likely
   secondary to recent transfusions, but the degree of elevation is
   unusual.  Unable to evaluate for intrinsic hemolysis given recent FFP
   and blood transfusions.
   - trend bilirubin
   - consider transfusion reaction workup
   .
   # hypertension:  currently normotensive
   - restart home lisinopril
   .
   # FEN: IVFs / replete lytes prn / regular diet
   # PPX: pneumoboots
   # ACCESS: PIV x 3
   # CODE:  Full, discussed
   # CONTACT:  [**Name (NI) 186**] [**Name (NI) 1948**] [**Telephone/Fax (1) 13439**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2176-2-29**] 12:05 AM
   20 Gauge - [**2176-2-29**] 12:07 AM
   22 Gauge - [**2176-2-29**] 12:08 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2176-03-02 10:04:00 Physician Attending Progress Note
Chief Complaint: hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   69F with cirrhosis of unknown etiology p/w new left hemothorax/bloody
   pleural effusion.
   24 Hour Events:
 THORACENTESIS - At [**2176-3-1**] 03:00 PM.  During thoracentesis,
   transient SVT.  Removed 1800cc of bloody fluid with Hct of 7%.
   Another transient SVT this AM.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: Tachycardia
   Respiratory: Cough, No(t) Dyspnea
   Genitourinary: Foley
   Integumentary (skin): Jaundice
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2176-3-2**] 10:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**78**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.1
C (96.9
   HR: 79 (78 - 108) bpm
   BP: 98/49(61) {98/40(53) - 128/55(72)} mmHg
   RR: 17 (16 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,870 mL
                                                                    100 mL
   PO:
                                                                    820 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    250 mL
   Blood products:
                                                                    800 mL
   Total out:
                                                                    600 mL
                                                                    290 mL
   Urine:
                                                                    600 mL
                                                                    290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,270 mL
                                                                   -190 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 95%
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Heart:  regular, no gallops
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: left base)
   Abd:  soft, NT, naBS
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Ext:  no LE edema
   Neuro:  Awake, alert and oriented.  Follows commands
   Labs / Radiology
   8.2 g/dL
   41 K/uL
   88 mg/dL
   0.4 mg/dL
   30 mEq/L
   3.9 mEq/L
   16 mg/dL
   105 mEq/L
   139 mEq/L
   24.5 %
   6.7 K/uL
        [image002.jpg]
                             [**2176-2-29**]  01:43 AM
                             [**2176-2-29**]  04:06 AM
                             [**2176-2-29**]  11:58 AM
                             [**2176-2-29**]  05:48 PM
                             [**2176-3-1**]  03:53 AM
                             [**2176-3-1**]  02:48 PM
                             [**2176-3-2**]  04:22 AM
   WBC
   9.8
   8.8
   8.1
   6.6
   7.6
   6.7
   Hct
   27.1
   26.5
   27.3
   25.8
   26.5
   24.6
   24.5
   Plt
   53
   59
   56
   49
   41
   Cr
   0.4
   0.4
   0.4
   0.4
   Glucose
   95
   105
   93
   88
   Other labs: PT / PTT / INR:23.8/33.2/2.3, ALT / AST:30/46, Alk Phos / T
   Bili:82/8.8, Fibrinogen:76 mg/dL, Albumin:2.6 g/dL, LDH:168 IU/L,
   Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:3.1 mg/dL
   Imaging: CXR [**3-1**]: improved left effusion
   Assessment and Plan
 CIRRHOSIS OF LIVER, OTHER
   F/u hepatology
   Diagnostic paracentesis today.
 Bloody pleural effusion:
   Most likely cause is from traumatic initial tap but cytology studies
   pending.
   Vit K to attempt to correct cogualopathy.
   CXR repeat this PM.
   >Oliguria:
   Likely intravascular volume deplete.  Fluid bolus.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2176-2-29**] 12:05 AM
   20 Gauge - [**2176-2-29**] 12:07 AM
   22 Gauge - [**2176-2-29**] 12:08 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   ------ Protected Section ------
   I saw and examined the pt, and was physically present with the ICU team
   for the key portions of services provided. I agree with Dr. [**Last Name (STitle) 347**]
   note, including assessment and plan.
   69 yo female with cirrhosis of unclear etiology, transferred from OSH
   with large pleural effusion. Repeat thoracentesis yesterday with 1.8
   liter bloody fluid- pleural hct 7. Dx para done today.
   For pleural effusion, may be hep. Hydrothorax complicated by initial
   traumatic tap. LDH presumably high (no serum LDH
.) but may be related
   to amount of blood; pleural prot/albumin now consistent with this. Will
   f/u OSH pleural cytology. Repeat CT did not demonstrate lung lesions,
   though as the pleural fluid already appears to be re-accumulating,
   there was too much compressive atelectasis to visualize the LLL. For
   cirrhosis, hepatology continuing to follow; multiple labs pending and
   need to review outside w/u. Urine output falling today, may reflect
   pt
s limted po intake and amt of fluid recently removed- will try
   gentle fluid resuscitation.
   Pt is critically ill.
   Total time spent: 32 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 618**] [**Last Name (NamePattern1) **], MD
   on:[**2176-3-2**] 21:20 ------

2176-03-03 07:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PARACENTESIS - At [**2176-3-2**] 11:57 AM
 PARACENTESIS - At [**2176-3-2**] 12:34 PM
 EEG - At [**2176-3-2**] 03:30 PM
   - diagnostic para done - not nearly so bloody, no sbp
   - UOP down to <20cc/h....given 250 cc bolus x 2 without any improvement
   - repeat CXR with reaccumulation of some fluid
   - CT chest (with contrast although not ordered as such) - lots of
   fluid, need to f/u final read
   - UOP picked up to ~ 30 cc/h after 2 250 cc boluses and 12.5 g albumin
   - UOP remains 20-30 cc/h
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-3-3**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**78**] AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.1
C (98.7
   HR: 91 (78 - 104) bpm
   BP: 112/54(68) {94/44(57) - 128/59(73)} mmHg
   RR: 26 (16 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,750 mL
                                                                    240 mL
   PO:
                                                                    950 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    750 mL
   Blood products:
                                                                     50 mL
   Total out:
                                                                    663 mL
                                                                    118 mL
   Urine:
                                                                    663 mL
                                                                    118 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,087 mL
                                                                    122 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///28/
   Physical Examination
   GEN:The patient is in no distress and appears comfortable.  Friendly.
   SKIN: No rashes or skin changes noted
   HEENT: No JVD, neck supple, No lymphadenopathy in cervical, posterior,
   or supraclavicular chains noted.
   CHEST: Decreased breath sounds at bases bilaterally, L>R.
   CARDIAC: Regular rhythm; no murmurs, rubs, or gallops.
   ABDOMEN: No apparent scars. Non-distended, and soft without tenderness
   EXTREMITIES:no peripheral edema, warm without cyanosis
   NEUROLOGIC: Alert and appropriate. CN II-XII grossly intact. BUE [**5-15**],
   and BLE [**5-15**] both proximally and distally. No pronator drift. Reflexes
   were symmetric. Downward going toes.
   Labs / Radiology
   45 K/uL
   8.4 g/dL
   108 mg/dL
   0.4 mg/dL
   28 mEq/L
   4.2 mEq/L
   14 mg/dL
   106 mEq/L
   137 mEq/L
   24.4 %
   5.8 K/uL
        [image002.jpg]
                             [**2176-2-29**]  01:43 AM
                             [**2176-2-29**]  04:06 AM
                             [**2176-2-29**]  11:58 AM
                             [**2176-2-29**]  05:48 PM
                             [**2176-3-1**]  03:53 AM
                             [**2176-3-1**]  02:48 PM
                             [**2176-3-2**]  04:22 AM
                             [**2176-3-2**]  02:30 PM
                             [**2176-3-3**]  02:58 AM
   WBC
   9.8
   8.8
   8.1
   6.6
   7.6
   6.7
   5.9
   5.8
   Hct
   27.1
   26.5
   27.3
   25.8
   26.5
   24.6
   24.5
   24.7
   24.4
   Plt
   53
   59
   56
   49
   41
   46
   45
   Cr
   0.4
   0.4
   0.4
   0.4
   0.4
   Glucose
   95
   105
   93
   88
   159
   108
   Other labs: PT / PTT / INR:26.3/38.8/2.5, ALT / AST:30/46, Alk Phos / T
   Bili:82/8.8, Fibrinogen:76 mg/dL, Albumin:2.6 g/dL, LDH:168 IU/L,
   Ca++:8.1 mg/dL, Mg++:1.7 mg/dL, PO4:2.1 mg/dL
   Imaging: Chest CT
   1. Large simple left pleural effusion. No pleural implants to suggest
   malignant process. Relaxation atelectasis in adjacet lung parenchyma.
   2. Small focus of ground-glass opacity in RUL, could represent small
   interstitial hemorrhage.
   3. Nodular liver. Borderline splenomegaly.
   4. Cholelithiasis without acut cholecystitis.
   CXR:
   Assessment and Plan
 .H/O [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 LIVER FUNCTION ABNORMALITIES
 CIRRHOSIS OF LIVER, OTHER
 .H/O CIRRHOSIS OF LIVER, ALCOHOLIC
 HEMOTHORAX
   Assessment and Plan
 LIVER FUNCTION ABNORMALITIES
 CIRRHOSIS OF LIVER, OTHER
 .H/O CIRRHOSIS OF LIVER, ALCOHOLIC
 HEMOTHORAX
   A 69 year-old woman with a recent diagnosis of cirrhosis of unclear
   etiology presents with hemothorax.  She is doing well s/p thoracentesis
   yesterday.
   .
   #  Bloody Hepatic Hydrothorax with and hypoxia:  Likely ascitic fluid
   with some bleeding/trauma after initial thoracentesis.   Has bloody
   effusion, not hemothorax based on Hct.
   - PM CXR
   - IP/Thoracentesis Recs
   - Liver Recs
   - PM Hct
   - Home Vit K 5mg Daily
   #. Poor urine output- 250 mL bolus to account for fluid shifts from tap
   yesterday
   - PM Lytes
   - Trend Cr
   #.  Ccirrhosis:  unclear etiology, appears to be primarily a biliary
   picture based on LFTs. However, fractionated bili shows predominately
   unconjugated bilirubin, raising concern for co-existing hemolysis. INR
   elevation indicative of synthetic dysfunction.
   - f/u liver recs
   - Diagnostic Paracentesis today, will need FFP/plts.
   - Outpatient GI: Dr. [**Last Name (STitle) 13436**] [**Telephone/Fax (1) 13437**], Dr. [**First Name (STitle) **] (ERCP)
   [**Telephone/Fax (1) 13438**]
   # Hypertension:  currently normotensive, borderline hypotensive
   - Stop lisinopril
   # FEN: IVFs / replete lytes prn / regular diet
   # PPX: pneumoboots
   # ACCESS: PIV x 3
   # CODE:  Full, discussed
   # CONTACT:  [**Name (NI) 186**] [**Name (NI) 1948**] [**Telephone/Fax (1) 13439**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2176-2-29**] 12:05 AM
   20 Gauge - [**2176-2-29**] 12:07 AM
   22 Gauge - [**2176-2-29**] 12:08 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2176-03-03 10:45:00 Physician Attending Progress Note
Chief Complaint: large pleural effusion
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   69F with cirrhosis p/w large left pleural effusion
   24 Hour Events:
 PARACENTESIS - At [**2176-3-2**] 11:57 AM
 PARACENTESIS - At [**2176-3-2**] 12:34 PM
 EEG - At [**2176-3-2**] 03:30 PM
   History obtained from Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: Edema
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Allergy / Immunology: No(t) Immunocompromised
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2176-3-3**] 10:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**78**] AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.4
C (97.6
   HR: 87 (82 - 104) bpm
   BP: 108/45(60) {94/44(57) - 128/59(73)} mmHg
   RR: 21 (16 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,750 mL
                                                                    360 mL
   PO:
                                                                    950 mL
                                                                    360 mL
   TF:
   IVF:
                                                                    750 mL
   Blood products:
                                                                     50 mL
   Total out:
                                                                    663 mL
                                                                    118 mL
   Urine:
                                                                    663 mL
                                                                    118 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,087 mL
                                                                    242 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///28/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Percussion: Dullness : left lower half), (Breath
   Sounds: Diminished: left side)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm, Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
   45 K/uL
   108 mg/dL
   0.4 mg/dL
   28 mEq/L
   4.2 mEq/L
   14 mg/dL
   106 mEq/L
   137 mEq/L
   24.4 %
   5.8 K/uL
        [image002.jpg]
                             [**2176-2-29**]  01:43 AM
                             [**2176-2-29**]  04:06 AM
                             [**2176-2-29**]  11:58 AM
                             [**2176-2-29**]  05:48 PM
                             [**2176-3-1**]  03:53 AM
                             [**2176-3-1**]  02:48 PM
                             [**2176-3-2**]  04:22 AM
                             [**2176-3-2**]  02:30 PM
                             [**2176-3-3**]  02:58 AM
   WBC
   9.8
   8.8
   8.1
   6.6
   7.6
   6.7
   5.9
   5.8
   Hct
   27.1
   26.5
   27.3
   25.8
   26.5
   24.6
   24.5
   24.7
   24.4
   Plt
   53
   59
   56
   49
   41
   46
   45
   Cr
   0.4
   0.4
   0.4
   0.4
   0.4
   Glucose
   95
   105
   93
   88
   159
   108
   Other labs: PT / PTT / INR:26.3/38.8/2.5, ALT / AST:30/46, Alk Phos / T
   Bili:82/8.8, Fibrinogen:76 mg/dL, Albumin:2.6 g/dL, LDH:168 IU/L,
   Ca++:8.1 mg/dL, Mg++:1.7 mg/dL, PO4:2.1 mg/dL
   Fluid analysis / Other labs: SAAG>1.5
   Imaging: Chest CT: b/l effusions, left moderate, right small with
   associated atelectasis.
   Microbiology: Ascitic fluid: no growth
   Assessment and Plan
 CIRRHOSIS OF LIVER, OTHER:
   F/u with hepatology.
   W/u for etiology pending.
   > Pleural effusion:
   Remains moderate size with no evidence of underlying pleural process.
   Initial blood effusion likl\[**Location (un) **] related to traumatic tap in setting of
   coagulapathy.
   Likely related to cirrhosis/hepatic hydrothorax.
   Not compromising resp status.
   Initiate diuretics.
   F/u cytology.
   ICU Care
   Nutrition: Tolerating PO diet.
   Glycemic Control:
   Lines:
   18 Gauge - [**2176-2-29**] 12:05 AM
   20 Gauge - [**2176-2-29**] 12:07 AM
   22 Gauge - [**2176-2-29**] 12:08 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 40 min
   ------ Protected Section ------
   CRITICAL CARE ATTENDING ADDENDUM
   I saw and examined Ms. [**Known lastname 13435**] with Dr. [**Last Name (STitle) 347**], whose note above reflects
   my input, as does the ICU team note from today.  I would add/emphasize
   that this 69 y/o woman with cirrhosis and pleural effusion was admitted
   with respiratory distress that was presumably related to re-expansion
   pulmonary edema.  Seen by I.P., and repeat thoracentesis without
   specific diagnosis.  Respiratory distress has resolved.  Differential
   for her effusion remains quite broad.  Will follow cultures, cytology,
   and other pleural studies.  In addition, given her multiple cardiac
   murmurs (?including diastolic), would also check echo.  Can consider
   TFTs if other evidence of hypothyroidism.  To floor.  Discussed with
   patient and family; all questions answered.
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) **], MD
   on:[**2176-3-3**] 16:38 ------